US08334315B2
6.13 Synthesis of 2-(1H-indazol-5-yl)propanoic acid (Employed for the Synthesis of Example Compound No. 209)
Sulfuric acid (365.8 g, 3.73 mol, 10 eq) was added drop wise to p-toluidine (40 g, 0.37 mol) at it and stirred the contents to obtain a clear solution. Then Urea nitrate (45.5 g, 0.37 mol, 1 eq) was added at 0-10° C. and stirred the reaction mass for 30 min at the same temperature. Progress of the reaction was monitored by TLC (30% ethyl acetate/hexane, Rf˜0.5). On completion of the reaction, reaction mixture was quenched with ice water and the solid formed was filtered. Solid obtained was taken in 20% NaOH solution (up to pH˜12) and filtered. Washed the solid and dried to yield the required product as an yellow colored solid (50 g, 88% yield).

reactant | Sulfuric acid | 3.73 mol, 365.8 g, 10 eq | S(O)(O)(=O)=O | H2O4S
reactant | p-toluidine | 0.37 mol, 40 g | NC1=CC=C(C=C1)C | C7H9N
reactant | Urea nitrate | 0.37 mol, 45.5 g, 1 eq | [N+](=O)(O)[O-].NC(=O)N
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | NaOH | [OH-].[Na+]
product | 2-(1H-indazol-5-yl)propanoic acid | 50 g, 88% yield | N1N=CC2=CC(=CC=C12)C(C(=O)O)C | C10H10N2O2
